US04904653
(e) N-(2-Hydroxy-2-phenylethyl)N-methyl 4-chloro-thiophene-3-ethylamine
N-methyl 4-chloro-thiophene-3-ethylamine was reacted with styrene oxide as described in Example 20(b) to give the title product as an oil.

reactant | N-methyl 4-chloro-thiophene-3-ethylamine | CNCCC1=CSC=C1Cl | C7H10ClNS
reactant | styrene oxide | C1C(C2=CC=CC=C2)O1 | C8H8O
product | N-(2-Hydroxy-2-phenylethyl)N-methyl 4-chloro-thiophene-3-ethylamine | OC(CN(CCC1=CSC=C1Cl)C)C1=CC=CC=C1 | C15H18ClNOS
